US06075029
D. Preparation of (R)-1-(5-Acetoxyhexyl)-7-benzyl-3,8-dimethylxanthine
7-Benzyl-3,8-dimethylxanthine (500 mg, 1.85 mmol) was added to a suspension of sodium hydride (50.5 mg) in anhydrous DMSO (20 ml) and stirred for 30 min. (R)-5-acetoxy-1-chlorohexane (357 mg) (prepared according to Kline et al. U.S. Pat. No. 5,629,423 (1997)) was added and the mixture was heated at 70-80° C. for 12 h. After cooling to room temperature, the reaction was quenched by the addition of water (50 ml) and extracted with ethyl acetate (3×75 ml). The combined extracts were washed with water (2×50 ml), with saturated aqueous sodium chloride solution (50 ml), dried over magnesium sulfate and concentrated. The product was purified by flash chromatography (silica gel) eluting with ethyl acetate. Yield=638 mg.

reactant | 7-Benzyl-3,8-dimethylxanthine | 1.85 mmol, 500 mg | C(C1=CC=CC=C1)N1C(=NC=2N(C(NC(C12)=O)=O)C)C | C14H14N4O2
reactant | sodium hydride | 50.5 mg | [H-].[Na+]
reactant | (R)-5-acetoxy-1-chlorohexane | 357 mg | C(C)(=O)O[C@@H](CCCCCl)C | C8H15ClO2
solvent | DMSO | 20 ml | CS(=O)C | C2H6OS
product | (R)-1-(5-Acetoxyhexyl)-7-benzyl-3,8-dimethylxanthine | C(C)(=O)O[C@@H](CCCCN1C(=O)N(C=2N=C(N(C2C1=O)CC1=CC=CC=C1)C)C)C | C22H28N4O4
